US04325946
A solution of 1 g (3.7 mmoles) of methyl 2,3,6-trideoxy-4-C-methyl-3-trifluoroacetamido-α-L-lyxo-hexopyranoside (IV-A) in 20 ml of acetic acid and 80 ml of water was reacted at 100° C. for 2 hours. The solution was evaporated and 2,3,6-trideoxy-4-C-methyl-3-trifluoroacetamido-α-L-lyxo-hexopyranose (V-A) (0.95 g; 95%) was obtained as a white solid; m.p. 181°-182° C. [α]D23° =-127° (c=1.0 in methanol). The PMR spectrum (CDCl3 +DMSO-d6) showed, inter alia, absorptions at: 1.05 (s, CH3 --C-4), 1.16 (d, CH3 -C-5), and 5.27δ(C-l-H). A solution of 0.75 g (2.9 mmoles) of compound V-A in a mixture of 10 ml of triethylamine and 20 ml of anhydrous methylene dichloride was treated under stirring with 2.20 g of p-nitrobenzoyl chloride and 0.220 g of 4-dimethylaminopyridine and then heated at 45° C. for 90 minutes. The solution was evaporated to form a residue which was dissolved in 100 ml of chloroform, washed with 10% sodium bicarbonate solution and then with water. The chloroform solution was then dried over sodium sulphate and concentrated to a residue which was chromatographed on a silica gel column. Elution with a 95:5 chloroform: acetone mixture gave 1,4-di-O-p-nitrobenzoyl-2,3,6-trideoxy-4-C-methyl-3-trifluoroacetamido-L-lyxo-hexopyranose (VI-A, 1.55 g; 95%): m.p. 168°-170° C.; [α]D23° =-35° (c=1 in chloroform).

reactant | methyl 2,3,6-trideoxy-4-C-methyl-3-trifluoroacetamido-α-L-lyxo-hexopyranoside | 3.7 mmoles, 1 g | C[C@@]1([C@H](C[C@H](OC)O[C@H]1C)NC(C(F)(F)F)=O)O | C10H16F3NO4
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 80 ml | O | H2O
product | 2,3,6-trideoxy-4-C-methyl-3-trifluoroacetamido-α-L-lyxo-hexopyranose | 0.95 g, 95% | C[C@@]1([C@H](C[C@H](O)O[C@H]1C)NC(C(F)(F)F)=O)O | C9H14F3NO4
